US09260436B2
A mixture of 1.0 g of 2-amino-4-trifluromethylbenzamide, 944 mg of 4-chloro-2-ethylsulfanylbenzaldehyde, 765 mg of sodium bisulfite and 4 ml of DMA was stirred at 150° C. for 15 hours. A saturated aqueous sodium bicarbonate solution and water were added to the cooled reaction mixture, and the precipitated solid was filtered. The resulting solid was washed with water and n-hexane and then dried to obtain 1.46 g of 2-(4-chloro-2-ethylsulfanylphenyl)-7-trifluoromethyl-3H-quinazolin-4-one.

reactant | 2-amino-4-trifluromethylbenzamide | 1.0 g | NC1=C(C(=O)N)C=CC(=C1)C(F)(F)F | C8H7F3N2O
reactant | 4-chloro-2-ethylsulfanylbenzaldehyde | 944 mg | ClC1=CC(=C(C=O)C=C1)SCC | C9H9ClOS
reactant | sodium bisulfite | 765 mg | S([O-])(O)=O.[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | O | H2O
solvent | DMA | 4 ml | CC(=O)N(C)C | C4H9NO
product | 2-(4-chloro-2-ethylsulfanylphenyl)-7-trifluoromethyl-3H-quinazolin-4-one | 1.46 g | ClC1=CC(=C(C=C1)C1=NC2=CC(=CC=C2C(N1)=O)C(F)(F)F)SCC | C17H12ClF3N2OS
